US05912258
Synthesis of 2-amino-5-diisopropylaminoethylthio-1,3,4-thiadiazole
2-Amino-5-mercapto-1,3,4-thiadiazole (4.0 g), diisopropylaminoethylchloridehydrochloride (6.0 g), and potassium hydroxide (3.4 g) were stirred in methanol (100 ml) overnight at room temperature. The reaction mixture was concentrated under a vacuum. The residue, with water added thereto, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride, and then concentrated under a vacuum. The resulting solid was recrystallized from n-hexane/ethanol, thereby yielding 6.1 g of the aimed compound.

reactant | 2-Amino-5-mercapto-1,3,4-thiadiazole | 4.0 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | diisopropylaminoethylchloridehydrochloride | 6.0 g | Cl.C(C)(C)N(C(C)C)CCCl
reactant | potassium hydroxide | 3.4 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-amino-5-diisopropylaminoethylthio-1,3,4-thiadiazole | 6.1 g | NC=1SC(=NN1)SCCN(C(C)C)C(C)C | C10H20N4S2
